US06903129B2
A mixture of 403 mg (3.15 mmol) adipic acid anhydride, 604 mg (2.5 mmol) D-proline-benzyl-ester hydrochloride and 274 ml (2.5 mmol) N-methyl-morpholin in 10 ml dichloromethane was stirred at room temperature for 1 hour. Then 0.5 g polymer bound primary amine (2 meq/g) were added and stirring was continued for 1 hour. After filtration 823 ml (7.5 mmol) N-methyl-morpholin, 338 mg (2.5 mmol) 1-hydroxybenzotriazole, 479 mg (2.5 mmol) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 450 mg (2.5 mmol) D-proline-ethyl-ester were added and the mixture was stirred for another 48 hours. Removal of the solvent and chromatography on silicagel with ethylacetate gave 135 mg (12%) (R)-1-[6-[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester as a light yellow oil, MS m/e (%): 459 (M+H+, 100).

reactant | adipic acid anhydride | 3.15 mmol, 403 mg | C1(CCCCC(=O)O1)=O | C6H8O3
reactant | D-proline-benzyl-ester hydrochloride | 2.5 mmol, 604 mg | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | N-methyl-morpholin | 2.5 mmol, 274 ml | CN1CCOCC1 | C5H11NO
reactant | N-methyl-morpholin | 7.5 mmol, 823 ml | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 2.5 mmol, 338 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.5 mmol, 479 mg | Cl.CN(CCCN=C=NCC)C
reactant | D-proline-ethyl-ester | 2.5 mmol, 450 mg | C(C)OC([C@@H]1NCCC1)=O | C7H13NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-1-[6-[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 135 mg, 12% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC)=O | C25H34N2O6
